US09289431B2
methyl 6-bromo-3-(methoxymethoxy)picolinate
Diisopropylethylamine (1.46 mL) was added to a chloroform (20 mL) solution of methyl 6-bromo-3-hydroxypyridine-2-carboxylate (970 mg) and placed in a nitrogen atmosphere. Next, the reaction mixture was cooled to 0° C., and chloromethoxymethane (0.38 mL) was added thereto. The reaction mixture was stirred at 0° C. for 5 minutes, and then stirred at room temperature for 1 hour. The reaction mixture was cooled to 0° C., diluted with water, and extracted with chloroform. The combined organic layer was washed with saturated sodium chloride, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (hexane:ethyl acetate) to give the desired product (1.22 g, yield: 100%) as a colorless oil.

reactant | Diisopropylethylamine | 1.46 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
reactant | methyl 6-bromo-3-hydroxypyridine-2-carboxylate | 970 mg | BrC1=CC=C(C(=N1)C(=O)OC)O | C7H6BrNO3
reactant | chloromethoxymethane | 0.38 mL | ClCOC | C2H5ClO
solvent | water | O | H2O
product | methyl 6-bromo-3-(methoxymethoxy)picolinate | 1.22 g, yield: 100% | BrC1=CC=C(C(=N1)C(=O)OC)OCOC | C9H10BrNO4
